US08912186B2
By a procedure similar to that of example 1.59.1, starting from benzaldehyde and 2-acetylcarbazole, 1-(9H-carbazol-2-yl)-3-phenylprop-2-en-1-one was obtained as yellow solid.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-acetylcarbazole | C(C)(=O)C1=CC=2NC3=CC=CC=C3C2C=C1 | C14H11NO
product | 1-(9H-carbazol-2-yl)-3-phenylprop-2-en-1-one | C1=C(C=CC=2C3=CC=CC=C3NC12)C(C=CC1=CC=CC=C1)=O | C21H15NO
